US06136823
Synthesis of 1-(3-Amino-4-fluorophenyl)-8-chloro-6-fluoro-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
1-(3-Amino-4-fluorophenyl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (300 mg) and an aqueous solution (about 40%; 500 mg) of methylamine were added to pyridine (1,200 mg), and the mixture was stirred at room temperature for 15 hours. The reaction mixture was concentrated under reduced pressure. A process of adding ethanol (2 ml) to the residue and then concentrating the mixture under reduced pressure was conducted twice repeatedly. Ethanol (2 ml) was added to the resultant residue. Deposits were collected by filtration and washed with ethanol and diisopropyl ether in that order to obtain the title compound (210 mg) as a pale brown powder.

reactant | 1-(3-Amino-4-fluorophenyl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 300 mg | NC=1C=C(C=CC1F)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)O | C16H8ClF3N2O3
reactant | methylamine | 500 mg | CN | CH5N
solvent | pyridine | 1,200 mg | N1=CC=CC=C1 | C5H5N
product | 1-(3-Amino-4-fluorophenyl)-8-chloro-6-fluoro-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 210 mg | NC=1C=C(C=CC1F)N1C=C(C(C2=CC(=C(C(=C12)Cl)NC)F)=O)C(=O)O | C17H12ClF2N3O3
